US07125990B2
5-Fluoro-1-(2,4,6-trimethyl-phenyl)-1H-benzoimidazol-2-ylamine:3, scheme 1: (D)
A solution of cyanogen bromide (2.67 g, 25.2 mmol) in anhydrous ethanol (10 mL) was added at 0° C. to a solution of 4-fluoro-N1-(2,4,6-trimethyl-phenyl)-benzene-1,2-diamine (4.74 g, 19.4 mmol) in anhydrous ethanol (20 mL) under nitrogen. The reaction mixture was warmed up to room temperature for 10 min, then was heated at 155° C. for 40 min with a flow of nitrogen to remove ethanol. Upon cooling to room temperature, the resulting solids were transferred to a separatory funnel via dichloromethane (70 mL), and washed sequentially with 1 N sodium hydroxide (2×35 mL), water and brine. The organic layer was dried over anhydrous sodium sulfate and solvents were removed in vacuo to afford the title compound as a red solid (5.11 g, 98% yield). The purity of this compound was determined to be 95% by LC/MS. 1H NMR (CDCl3, 300 MHz) δ 7.12 (dd, J=9.7, 2.4 Hz, 1H), 7.06 (s, 2H), 6.69 (td, J=9.1, 2.4 Hz, 1H), 6.56 (dd, J=8.5, 4.7 Hz, 1H), 2.38 (s, 3H), 1.98 (s, 6H); 13C NMR (CDCl3, 75 MHz) δ 161.0, 157.9, 154.2, 143.3, 139.9, 137.4, 129.8, 128.8, 107.8 (d, J=10.2 Hz), 106.9 (d, J=25.3 Hz), 103.1 (d, J=25.2 Hz)21.1, 17.5; Mass spec.: 270.17 (MH+).

reactant | cyanogen bromide | 25.2 mmol, 2.67 g | N#CBr | CBrN
reactant | 4-fluoro-N1-(2,4,6-trimethyl-phenyl)-benzene-1,2-diamine | 19.4 mmol, 4.74 g | FC=1C=C(C(=CC1)NC1=C(C=C(C=C1C)C)C)N | C15H17FN2
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 5-Fluoro-1-(2,4,6-trimethyl-phenyl)-1H-benzoimidazol-2-ylamine | 5.11 g, 98% yield | FC1=CC2=C(N(C(=N2)N)C2=C(C=C(C=C2C)C)C)C=C1 | C16H16FN3
